US04764625
Preparation of 3-methylphenyldiphenylamine
The same equipment and conditions as in example I were employed with the following charge: 20.4 grams (0.1 mole) iodobenzene, 27.5 grams (0.15 mole) 3-methyldiphenylamine, 15.0 grams copper powder and 30.0 milliliters of Soltrol® 170. The above-identified intended product was obtained as colorless crystals having a melting point of 69°-70° C. Yield 75%.

reactant | iodobenzene | 0.1 mole, 20.4 grams | IC1=CC=CC=C1 | C6H5I
reactant | 3-methyldiphenylamine | 0.15 mole, 27.5 grams | CC1=CC(=CC=C1)NC2=CC=CC=C2 | C13H13N
catalyst | copper | 15.0 grams | [Cu] | Cu
product | 3-methylphenyldiphenylamine | Yield 75% | CC=1C=C(C=CC1)N(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17N
